US07572801B2
In analogy to the procedure described in example 78.3, 2,5-dichloronicotinic acid was reacted with 2-[2-(4-fluoro-phenyl)-ethoxy]-acetamidine hydrochloride in the presence of TBTU and DIPEA to give 2,5-dichloro-N-{2-[2-(4-fluoro-phenyl)-ethoxy]-1-imino-ethyl}-nicotinamide as orange oil. MS: m/e=370.0 [M+H+].

reactant | 2,5-dichloronicotinic acid | ClC1=C(C(=O)O)C=C(C=N1)Cl | C6H3Cl2NO2
reactant | 2-[2-(4-fluoro-phenyl)-ethoxy]-acetamidine hydrochloride | Cl.FC1=CC=C(C=C1)CCOCC(=N)N
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
product | 2,5-dichloro-N-{2-[2-(4-fluoro-phenyl)-ethoxy]-1-imino-ethyl}-nicotinamide | ClC1=C(C(=O)NC(COCCC2=CC=C(C=C2)F)=N)C=C(C=N1)Cl | C16H14Cl2FN3O2
